US09169259B2
To A mixture of 7-bromo-1,2,3,4-tetrahydroisoquinoline (500 mg, 2.36 mmol) and triethylamine (715 mg, 7.08 mmol) in dichloromethane (10 mL) was added acetyl chloride (221 mg, 2.83 mmol) at 0° C., then the mixture was stirred for 2 h at 0° C. Water (5 mL) was added and the mixture extracted with ethyl acetate (10 mL). The combined organic layers were washed with brine (3×10 mL) and dried with Na2SO4. The residue was concentrated then purified by chromatography (silica gel, 200-300 mesh, petroleum ether:ethyl acetate=5:1) to give 1-(7-bromo-3,4-dihydroisoquinolin-2(1H)-yl)ethanone (500 mg, 83%) as yellow oil. LC-MS: [M+H]+, 254, tR=1.533 min.

reactant | 7-bromo-1,2,3,4-tetrahydroisoquinoline | 2.36 mmol, 500 mg | BrC1=CC=C2CCNCC2=C1 | C9H10BrN
reactant | triethylamine | 7.08 mmol, 715 mg | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 2.83 mmol, 221 mg | C(C)(=O)Cl | C2H3ClO
reactant | Water | 5 mL | O | H2O
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 1-(7-bromo-3,4-dihydroisoquinolin-2(1H)-yl)ethanone | 500 mg, 83% | BrC1=CC=C2CCN(CC2=C1)C(C)=O | C11H12BrNO
